Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
Cough
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ w/ HTN, HLD, PAD, blindness, RA (on MTX and chronic low-dose 
prednisone), and pulmonary ___ infection (on chronic suppressive 
ethambutol/rifampin/azithro) with resultant bronchiectasis, who 
presented with worsening cough.

The patient has had cough worsening over about four days. She 
has been feeling more tired than usual. She was seen in urgent 
care and diagnosed with a bronchitis; she was given doxycycline, 
which she took two doses of. She felt the cough was worsening 
and presented to the ED. 

In the ED, vitals were: temp 101.2, HR 88, BP 159/88, RR 20, 
SpO2 100% on RA. Basic labs were fairly unremarkable except for 
chemistries suggestive of mild hypovolemia. CXR again showed no 
definite infiltrates. She was given vanc/cefepime and admitted 
to medicine for bronchitis vs PNA. 

REVIEW OF SYSTEMS
GEN: she is unsure about subjective fevers or chills
CARDIAC: denies chest pain or palpitations
PULM: as per HPI
GI: denies n/v, denies new abdominal pain, denies change in 
bowel habits
GU: denies dysuria or change in appearance of urine
MSK: denies new severe pain in any joint
Full 14-system review of systems otherwise negative and 
non-contributory. 

 
Past Medical History:
Mycobacterium avium on chronic suppressive antibiotics
Bronchiectasis
kyphosis
HTN
PAD
Glaucoma with legal blindness
RA
Hypothyroidism
Osteoporosis
Anemia of chronic disease
Cholelithiasis
Urge incontinence and incomplete bladder emptying
AAA (2.7 cm w/ intramural thrombus)
 
Social History:
___
Family History:
Denies any lung issues in first degree family members.
 
Physical Exam:
VITALS: 97.6 163 / 83 86 18 95 RA 
GEN: elderly woman in NAD  
 ENT: EOMI, sclerae anicteric, MMM, OP clear, legally blind
 NECK: No LAD, no JVD  
 CARDIAC: RRR, no M/R/G  
 PULM: normal respiratory effort. Lungs are symmetrically
tympanic to percussion.  Wet upper airway sounds suggestive of
heavy secretions - improved
 GI: soft, NT, NABS, mildly distended  
 MSK: No visible joint effusions. Hands with significant
deformity from RA.  
 DERM: No visible rash. No jaundice.  
 NEURO: AAOx3 and interactive; not forgetful, very sharp. No
facial droop, moving all extremities.  
 PSYCH: Full range of affect  
 EXTREMITIES: WWP, trace edema  

 
Pertinent Results:
Admission labs:
WBC-5.8 RBC-3.87* HGB-13.0 HCT-37.9 MCV-98 RDW-13.8 
SODIUM-130* POTASSIUM-3.7 CHLORIDE-93* TOTAL CO2-24 UREA N-23* 
CREAT-1.1 
LACTATE-2.0

CXR ___:
Hyperexpanded lungs without focal opacity convincing for 
pneumonia.

Discharge labs:
___ 06:23AM BLOOD WBC-4.8 RBC-3.54* Hgb-11.6 Hct-34.1 
MCV-96 MCH-32.8* MCHC-34.0 RDW-13.4 RDWSD-47.5* Plt ___
___ 06:00AM BLOOD Glucose-88 UreaN-20 Creat-0.9 Na-134 
K-3.5 Cl-99 HCO3-23 AnGap-___ w/ HTN, HLD, PAD, blindness, RA (on MTX and chronic low-dose
prednisone), and pulmonary ___ infection (on chronic suppressive
ethambutol/rifampin/azithro) with resultant bronchiectasis,
admitted with cough and fever - improved with levofloxacin. She
has had recent falls and functional decline,  which is the
primary reason her daughter brought her in to the hospital.  She 
was evaluated by physical therapy who recommended short term 
rehabilitation.

#BRONCHITIS  
#BRONCHIECTASIS W/ ACUTE EXACERBATION
 The patient has increased upper airway secretions, cough and
fever, consistent with a diagnosis of bronchitis. Given her
history of bronchiectasis and prior sputum culture positive for
pseudomonas we treated her with levofloxacin(prior pseudomonas
culture from ___ pan-sensitive). Was briefly on Cefepime, but
this was discontinued given lower concern for pneumonia, overall
stability and ongoing improvement.  Urine legionella negative
 - Continue levofloxacin for ___iscussed with Dr.
___ outpatient pulmonologist.  Course to end 
___. 
 - Flutter valve, chest ___, saline nebs for mobilization of
secretions.  
 - Continue outpatient Advair, albuterol, and guaifenisin  

#CHRONIC PULMONARY ___ INFECTION  
 The patient has been on suppressive antibiotics for ___ years
and her respiratory status has remained stable, despite repeated
positive AFB.  Continues on ethambutol/rifampin/azithro.  

#HTN - BP at times in the 190-200s during hospitalization
- INCREASED lisinopril to 20mg daily, patient declined take
lisinopril 40mg, because she is afraid it is too much too
quickly, and she would prefer to titrate her medications more
slowly.  Understands risk of stroke, heart disease, and that she
may need further titration in the future

#RHEUMATOID ARTHRITIS  
 - Continue prednisone 2.5 mg daily  
 - Held MTX and Xeljanz in the setting of acute infection, 
restart after completion of antibiotic course.  

#PERIPHERAL ARTERIAL DISEASE  
 - Continue ASA 81 mg daily, cilostazol 100 mg BID and Lipitor 
40
mg daily  

#HYPOTHYROIDISM  
 - continue synthroid  

#GLAUCOMA  
#BLINDNESS
#Home safety
#Functional decline  
 - Continue dorzolamide/timolol, latanoprost OD 
Evaluated by physical therapy who recommended discharge to short 
term rehabilitation, < 30 day stay anticipated.  Daughter is 
beginning to look into long-term care options for her mother 
after discharge from rehabilitation, because she cares for both 
of her elderly parents who are becoming increasingly frail.
 
#HCP: ___ (daughter) ___, cell ___ 

> 30 minutes on counseling and coordination of care on the day 
of discharge

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Acetaminophen 650 mg PO TID 
2. Azithromycin 250 mg PO DAILY 
3. Cilostazol 100 mg PO BID 
4. Artificial Tears Preserv. Free ___ DROP BOTH EYES Q4H 
5. Aspirin 81 mg PO DAILY 
6. Atorvastatin 40 mg PO QPM 
7. Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP RIGHT EYE BID 
8. Ethambutol HCl 900 mg PO DAILY 
9. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
10. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
11. FoLIC Acid 1 mg PO DAILY 
12. Levothyroxine Sodium 150 mcg PO DAILY 
13. Lisinopril 5 mg PO DAILY 
14. Lumigan (bimatoprost) 0.01 % ophthalmic QHS 
15. ofloxacin 0.3 % OPHTHALMIC TID 
16. Ranitidine 150 mg PO BID 
17. Rifampin 600 mg PO DAILY 
18. Albuterol Inhaler 2 PUFF IH Q6H 
19. GuaiFENesin ER 600 mg PO Q12H 
20. Methotrexate 25 mg IM WEEKLY 
21. PredniSONE 2.5 mg PO DAILY 
22. tofacitinib 5 mg oral BID 
23. Vitamin D 5000 UNIT PO DAILY 
24. Boost (food supplemt, lactose-reduced) 0.04 gram- 1 kcal/mL 
oral DAILY 
25. Lactobacillus acidophilus 1 billion cell oral DAILY 

 
Discharge Medications:
1.  Levofloxacin 500 mg PO Q48H Duration: 5 Doses  
2.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
3.  Albuterol Inhaler 2 PUFF IH Q6H  
4.  Artificial Tears Preserv. Free ___ DROP RIGHT EYE TID  
5.  Aspirin 81 mg PO DAILY  
6.  Atorvastatin 40 mg PO QPM  
7.  Azithromycin 250 mg PO DAILY  
8.  Boost (food supplemt, lactose-reduced) 0.04 gram- 1 kcal/mL 
oral DAILY  
9.  Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES Q8H  
10.  Cilostazol 100 mg PO BID  
11.  Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP RIGHT EYE BID  
12.  Ethambutol HCl 900 mg PO DAILY  
13.  Fluticasone Propionate NASAL 1 SPRY NU DAILY  
14.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID  
15.  FoLIC Acid 1 mg PO DAILY  
16.  GuaiFENesin ER 600 mg PO Q12H  
17.  Lactobacillus acidophilus 1 billion cell oral DAILY  
18.  Levothyroxine Sodium 150 mcg PO DAILY  
19.  Lisinopril 20 mg PO DAILY  
20.  Lotemax (loteprednol etabonate) 0.5 % ophthalmic QID  
21.  Lumigan (bimatoprost) 0.01 % OD QHS  
22.  Methotrexate 25 mg IM WEEKLY  
23.  ofloxacin 0.3 % OPHTHALMIC TID RIGHT EYE  
24.  PredniSONE 2.5 mg PO DAILY  
25.  Ranitidine 150 mg PO BID  
26.  Rifampin 600 mg PO DAILY  
27.  tofacitinib 5 mg oral BID  
28.  Vitamin D 5000 UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
- Hyponatremia
- Bronchitis / Bronchiectasis Flare
- Chronic mycobacterium avium intracellulare infection
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
You were hospitalized for cough and weakness.  You were treated 
with antibiotics, IV fluids, and adjustment of your blood 
pressure medications, and your symptoms improved.

You were seen by physical therapy, who recommended short term 
rehabilitation.
 
Followup Instructions:
___